### PR TITLE
feat: comparisons of numeric games with zero and star

### PR DESCRIPTION
**Pull request by LLaurance**

### CODE REVIEW

File: CombinatorialGames/Game/Classes.lean [hunk 1]
```diff
@@ -418,6 +418,18 @@ theorem lt_iff_exists_le [Numeric x] [Numeric y] :
     x < y ↔ (∃ z ∈ yᴸ, x ≤ z) ∨ (∃ z ∈ xᴿ, z ≤ y) := by
   rw [← Numeric.not_le, lf_iff_exists_le]
 
+theorem zero_le_iff_forall_pos [Numeric x] : 0 ≤ x ↔ ∀ z ∈ xᴿ, 0 < z := by
```
Comment (plp127) [inline CombinatorialGames/Game/Classes.lean]:
```suggestion
protected theorem zero_le [Numeric x] : 0 ≤ x ↔ ∀ z ∈ xᴿ, 0 < z := by
```
To match `IGame.zero_le`

File: CombinatorialGames/Game/Classes.lean [hunk 2]
```diff
@@ -418,6 +418,18 @@ theorem lt_iff_exists_le [Numeric x] [Numeric y] :
...
+  simpa using le_iff_forall_lt (x := 0)
+
+theorem le_zero_iff_forall_neg [Numeric x] : x ≤ 0 ↔ ∀ z ∈ xᴸ, z < 0 := by
```
Comment (plp127) [inline CombinatorialGames/Game/Classes.lean]:
```suggestion
protected theorem le_zero [Numeric x] : x ≤ 0 ↔ ∀ z ∈ xᴸ, z < 0 := by
```
To match `IGame.le_zero`.

File: CombinatorialGames/Game/Classes.lean [hunk 3]
```diff
@@ -418,6 +418,18 @@ theorem lt_iff_exists_le [Numeric x] [Numeric y] :
...
+  simpa using le_iff_forall_lt (y := 0)
+
+theorem pos_iff_exists_zero_le [Numeric x] : 0 < x ↔ ∃ z ∈ xᴸ, 0 ≤ z := by
```
Comment (plp127) [inline CombinatorialGames/Game/Classes.lean]:
```suggestion
protected theorem zero_lt [Numeric x] : 0 < x ↔ ∃ z ∈ xᴸ, 0 ≤ z := by
```

File: CombinatorialGames/Game/Classes.lean [hunk 4]
```diff
@@ -418,6 +418,18 @@ theorem lt_iff_exists_le [Numeric x] [Numeric y] :
...
+  simpa using lt_iff_exists_le (x := 0)
+
+theorem neg_iff_exists_le_zero [Numeric x] : x < 0 ↔ ∃ z ∈ xᴿ, z ≤ 0 := by
```
Comment (plp127) [inline CombinatorialGames/Game/Classes.lean]:
```suggestion
protected theorem lt_zero [Numeric x] : x < 0 ↔ ∃ z ∈ xᴿ, z ≤ 0 := by
```

**Review by plp127 — APPROVED** [review]
Do you have a specific use case for these theorems?

**Comment by LLaurance** [comment]
> Do you have a specific use case for these theorems?

Yes, I suppose I will put them in the same PR.

File: CombinatorialGames/Game/Special.lean [hunk 5]
```diff
@@ -58,6 +58,20 @@ protected instance Impartial.star : Impartial ⋆ := by rw [impartial_def]; simp
 @[simp] protected instance Short.star : Short ⋆ := by rw [short_def]; simp
 @[simp] theorem not_numeric_star : ¬Numeric ⋆ := by rw [numeric_def]; simp
 
+theorem star_lf_of_pos {x : IGame} (hx : 0 < x) : ⋆ ⧏ x :=
+  lf_iff_exists_le.mpr <| Or.inr ⟨0, by simp, hx.le⟩
+
+theorem lf_star_of_neg {x : IGame} (hx : x < 0) : x ⧏ ⋆ :=
+  lf_iff_exists_le.mpr <| Or.inl ⟨0, by simp, hx.le⟩
```
Comment (plp127) [inline CombinatorialGames/Game/Special.lean]:
```suggestion
theorem star_lf_of_nonneg {x : IGame} (hx : 0 ≤ x) : ⋆ ⧏ x :=
  fun h => star_lf_zero (hx.trans h)

theorem lf_star_of_nonpos {x : IGame} (hx : x ≤ 0) : x ⧏ ⋆ :=
  fun h => zero_lf_star (h.trans hx)
```

File: CombinatorialGames/Game/Classes.lean [hunk 6]
```diff
@@ -418,6 +418,18 @@ theorem lt_iff_exists_le [Numeric x] [Numeric y] :
     x < y ↔ (∃ z ∈ yᴸ, x ≤ z) ∨ (∃ z ∈ xᴿ, z ≤ y) := by
   rw [← Numeric.not_le, lf_iff_exists_le]
 
+protected theorem zero_le [Numeric x] : 0 ≤ x ↔ ∀ z ∈ xᴿ, 0 < z := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Classes.lean:421]: This seems redundant to me, since it's just the direct composition of `IGame.zero_le` + `IGame.Numeric.not_lt`.

File: CombinatorialGames/Game/Special.lean [hunk 7]
```diff
@@ -58,6 +58,20 @@ protected instance Impartial.star : Impartial ⋆ := by rw [impartial_def]; simp
 @[simp] protected instance Short.star : Short ⋆ := by rw [short_def]; simp
 @[simp] theorem not_numeric_star : ¬Numeric ⋆ := by rw [numeric_def]; simp
 
+theorem star_lf_of_nonneg {x : IGame} (hx : 0 ≤ x) : ⋆ ⧏ x :=
```
Comment (vihdzp) [inline CombinatorialGames/Game/Special.lean:64]: This should generalize to other non-zero impartial games, shouldn't it?

File: CombinatorialGames/Game/Special.lean [hunk 8]
```diff
@@ -58,6 +58,20 @@ protected instance Impartial.star : Impartial ⋆ := by rw [impartial_def]; simp
...
+  fun h ↦ star_lf_zero (hx.trans h)
+
+theorem lf_star_of_nonpos {x : IGame} (hx : x ≤ 0) : x ⧏ ⋆ :=
+  fun h ↦ zero_lf_star (h.trans hx)
+
+theorem star_lt_of_numeric_of_pos {x : IGame} [Numeric x] (hx : 0 < x) : ⋆ < x := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Special.lean:70]: Likewise here.

File: CombinatorialGames/Game/Special.lean (hunk 7 above)
Comment (LLaurance) [reply CombinatorialGames/Game/Special.lean:64]: Certainly. I wasn't thinking too carefully about generalising because I was just looking at star. Let me get back to the drawing board......

File: CombinatorialGames/Game/Special.lean (hunk 8 above)
Comment (LLaurance) [reply CombinatorialGames/Game/Special.lean:70]: I see now that this is exactly [`lt_of_numeric_of_pos`](https://vihdzp.github.io/combinatorial-games/CombinatorialGames/Game/Small.html#IGame.Impartial.lt_of_numeric_of_pos) isn't it.

Comment (LLaurance) [reply CombinatorialGames/Game/Special.lean:70]: Is that file the best place for this theorem to live in?

Comment (vihdzp) [reply CombinatorialGames/Game/Special.lean]: What do you mean?
